US05013749
(b) (E)- 3-[4,5-Bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenol
From methyl (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-yl]-2-propenoate (1.150 g) and diisobutylaluminium hydride (1M in dichloromethane, 6.62 ml) by the process as described for the preparation of Intermediate (8 a) to afford a white solid which was purified by FCC eluting with System A (2:3) to afford the title compound (0.866 g) as a white solid, λmax (EtOH) 255.2 (12,050) and 243.2 (inf) nm (ε10,915).

reactant | methyl (E)-3-[4,5-bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-yl]-2-propenoate | 1.150 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/C(=O)OC)C(C)C | C22H20F2N2O2
reactant | diisobutylaluminium hydride | 1M, 6.62 ml | [H-].C(C(C)C)[Al+]CC(C)C
product | (E)- 3-[4,5-Bis(4-fluorophenyl)-2-(1-methylethyl)-1H-imidazol-1-yl]-2-propenol | 0.866 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)F)/C=C/CO)C(C)C | C21H20F2N2O
